US07501518B2
Using General Procedure A: A solution of 3,3″-dimethyl-1′,2′,3′,4′,5′,6′-hexahydro-cis-[2,2′;6′,2″]terpyridine (0.097 g, 0.37 mmol), 4-bromomethyl-thiophene-3-carbonitrile (0.168 g, 0.83 mmol) (Terpstra, J. W., et al., J. Org. Chem. (1986) 51:230-238), KI (21 mg, 0.13 mmol), and DIPEA (0.15 mL, 0.86 mmol) in DMF (3 mL) was heated at 60° C. for 21 hours. Purification of the crude material by column chromatography on silica gel (20:1:1 CH2Cl2—CH3OH—NH4OH) provided 118 mg (84%) of 4-(3,3″-dimethyl-3′,4′,5′,6′-tetrahydro-2′H-[2,2′;6′,2″]terpyridin-1′-ylmethyl)-thiophene-3-carbonitrile as a tan solid.

reactant | 3,3″-dimethyl-1′,2′,3′,4′,5′,6′-hexahydro-cis-[2,2′;6′,2″]terpyridine | 0.37 mmol, 0.097 g | CC=1C(=NC=CC1)[C@@H]1N[C@@H](CCC1)C1=NC=CC=C1C | C17H21N3
reactant | 4-bromomethyl-thiophene-3-carbonitrile | 0.83 mmol, 0.168 g | BrCC=1C(=CSC1)C#N | C6H4BrNS
reactant | DIPEA | 0.86 mmol, 0.15 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 4-(3,3″-dimethyl-3′,4′,5′,6′-tetrahydro-2′H-[2,2′;6′,2″]terpyridin-1′-ylmethyl)-thiophene-3-carbonitrile | 118 mg, 84% | CC=1C(=NC=CC1)C1N(C(CCC1)C1=NC=CC=C1C)CC=1C(=CSC1)C#N | C23H24N4S
